US06716863B2
2-[1-[4-[4-[[2-[(E)-2-(4-chlorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol
To a solution of 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol (130 mg) in DMF (4 ml), 60% oily sodium hydride (22 mg) was added under ice cooling. After stirring at room temperature for 30 minutes, (E)-4-chloromethyl-2-[2-(4-chlorophenyl)ethenyl]oxazole (140 mg) was added under ice cooling. After stirring at 0° C. for 1 hour, then at room temperature overnight, water was added under ice cooling. The precipitate was collected by filtration, washed with water, and dissolved in a mixture of THF-ethyl acetate. This solution was dried over magnesium sulfate, after which it was concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate-diethyl ether to yield the titled compound (168 mg) as colorless crystals.

reactant | 4-[4-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]butyl]phenol | 130 mg | OCCC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O2
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | (E)-4-chloromethyl-2-[2-(4-chlorophenyl)ethenyl]oxazole | 140 mg | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)Cl | C12H9Cl2NO
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-[1-[4-[4-[[2-[(E)-2-(4-chlorophenyl)ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol | 168 mg | ClC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO | C27H28ClN3O3
